US05804601
6-(4-Methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanoic acid
To a solution of 6-(1-methoxy-3-methylnaphth-2-yl)-5-hexenoic acid (70 g) and phenol (70 g) in dichloromethane (500 ml) was added boron trifluoride etherate (95 g) and the reaction mixture was stirred for 3 days at 35° C. and poured into cooled water. The organic layer was washed with water, dried, and evaporated. The residue was purified with silica gel chromatography (eluent; toluene, 20% ethyl acetate/hexane, and ethyl acetate) to give the titled compound (30 g).

reactant | 6-(1-methoxy-3-methylnaphth-2-yl)-5-hexenoic acid | 70 g | COC1=C(C(=CC2=CC=CC=C12)C)C=CCCCC(=O)O | C18H20O3
reactant | phenol | 70 g | C1(=CC=CC=C1)O | C6H6O
reactant | boron trifluoride etherate | 95 g | B(F)(F)F.CCOCC
reactant | water | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 6-(4-Methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanoic acid | 30 g | COC1=CC=C(C=C1)C(CCCCC(=O)O)C=1C(C2=CC=CC=C2C(C1C)=O)=O | C24H24O5
